US05416236
Synthesis of ethyl 4-chloro-5-ethylsulfonylamino-2-fluorocarbanilate
0.50 g (1.72 mmol) of ethyl 5-ethylsulfonylamino-2-fluorocarbanilate was dissolved in a mixture of 5 ml of dioxane and 1 ml of water, and chlorine gas was added to the resultant solution at a temperature of not higher than 25° C. until the starting material disappeared. After the reaction was completed, the surplus chlorine gas was removed by blowing nitrogen gas thereinto, and water was added. The precipitates crystals were filtered out and dried to obtain 0.48 g of the objective product (yield: 86%) in the form of light brown crystals.

reactant | ethyl 5-ethylsulfonylamino-2-fluorocarbanilate | 1.72 mmol, 0.50 g | C(C)S(=O)(=O)NC=1C=CC(=C(NC(OCC)=O)C1)F | C11H15FN2O4S
reactant | chlorine | ClCl | Cl2
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | water | 1 ml | O | H2O
product | ethyl 4-chloro-5-ethylsulfonylamino-2-fluorocarbanilate | 0.48 g, yield: 86% | ClC1=CC(=C(NC(OCC)=O)C=C1NS(=O)(=O)CC)F | C11H14ClFN2O4S
